US04000269
Preparation of S-(3,4-Dichloro-α,α-dimethylbenzylthio)methyl O,O-Dimethyl Phosphorodithioate
Using 3,4-dichloro-α,α-dimethyl-α-toluenethiol prepared from 3,4-dichloro-α,α-dimethylbenzyl alcohol by the procedure of Example 1, and using potassium O,O-dimethyl phosphorodithioate in place of potassium O,O-diethyl phosphorodithioate, the procedure of Example 6 gives the desired product as a colorless oil.

reactant | 3,4-dichloro-α,α-dimethyl-α-toluenethiol | ClC=1C=C(C=CC1Cl)C(S)(C)C | C9H10Cl2S
reactant | 3,4-dichloro-α,α-dimethylbenzyl alcohol | ClC=1C=C(C(C)(C)O)C=CC1Cl | C9H10Cl2O
reactant | potassium O,O-dimethyl phosphorodithioate | P(OC)(OC)(=S)[S-].[K+]
product | S-(3,4-Dichloro-α,α-dimethylbenzylthio)methyl O,O-Dimethyl Phosphorodithioate | P(OC)(OC)(=S)SCSC(C1=CC(=C(C=C1)Cl)Cl)(C)C | C12H17Cl2O2PS3
